US04652582
1-Acetyl-2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)pyrrole
A suspension of sodium hydride (2.64 g, 0.11 mole) in 100 ml dry N,N'-dimethylformamide was heated dropwise with a solution of 2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)-1H-pyrrole (31.56 g, 0.1 mole) in 200 ml dry N,N'-dimethylformamide and stirred for one hour at room temperature. The mixture was then treated dropwise with acetyl chloride (7.9 g, 0.1 mole). The mixture was stirred for three hours and concentrated in vacuo. The residue was triturated with water, collected by filtration, dried, and column chromatographed on silica gel with toluene-ethyl acetate (3:2) as the mobile phase. The product was collected in 25% yield; m.p. 211°-214°.

reactant | sodium hydride | 0.11 mole, 2.64 g | [H-].[Na+]
reactant | 2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)-1H-pyrrole | 0.1 mole, 31.56 g | CS(=O)(=O)C1=CC=C(C=C1)C=1NC=CC1C1=CC=C(C=C1)F | C17H14FNO2S
reactant | acetyl chloride | 0.1 mole, 7.9 g | C(C)(=O)Cl | C2H3ClO
solvent | N,N'-dimethylformamide | 100 ml | CN(C)C=O | C3H7NO
solvent | N,N'-dimethylformamide | 200 ml | CN(C)C=O | C3H7NO
product | 1-Acetyl-2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)pyrrole | 25% yield | C(C)(=O)N1C(=C(C=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C19H16FNO3S
